US07704996B2
4-(2-Fluorophenyl)-1-methylpiperidine-4-carbonitrile hydrochloride
To a solution of (2-fluorophenyl)acetonitrile (15 mmol) in THF (20 mL) are successively added bis-(2-chloroethyl)methylamine hydrochloride (16 mmol), tetrabutylammonium hydrogensulfate (1.5 mmol), and 40% aq. NaOH (20 mL), then the mixture is refluxed for 5.5 h. The reaction mixture is cooled at room temperature, diluted with water, then extracted with THF. The organic extracts are washed with water (×2) and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue is dissolved in ether, then HCl in 1,4-dioxane is added. The precipitate is collected by filtration to give the titled compound, which is directly used for the next reaction without further purification; 1H NMR (DMSO) δ: 2.43-2.60 (4H, m), 2.86 (3H, d), 3.20-3.28 (2H, m), 4.02-4.04 (2H, m), 7.31-7.40 (2H, m), 7.48-7.60 (2H, m), 11.16 (1H, br).

reactant | (2-fluorophenyl)acetonitrile | 15 mmol | FC1=C(C=CC=C1)CC#N | C8H6FN
reactant | bis-(2-chloroethyl)methylamine hydrochloride | 16 mmol | Cl.ClCCN(C)CCCl
reactant | NaOH | 20 mL | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium hydrogensulfate | 1.5 mmol | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 4-(2-Fluorophenyl)-1-methylpiperidine-4-carbonitrile hydrochloride | Cl.FC1=C(C=CC=C1)C1(CCN(CC1)C)C#N | InChI=1S/C13H15FN2.ClH/c1-16-8-6-13(10-15,7-9-16)11-4-2-3-5-12(11)14;/h2-5H,6-9H2,1H3;1H
